US05041156
A mixture of 1.5 g of 2-chloro-4-fluoro-5-[2methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoic acid, 1.37 g of 1,1,3-tribromo-1-propene and 0.52 g of sodium carbonate in 50 ml of anhydrous acetone is heated for 8 hours while stirring. Subsequently, the insoluble constituents are filtered off under suction and the filtrate is evaporated to dryness under reduced pressure. The residue is dissolved in 100 ml of diethyl ether and the solution is extracted three times with 50 ml of water each time. The organic phase is then dried over anhydrous sodium sulphate and evaporated to dryness, and the residue is purified by chromatography on a silica gel column using n-hexane/diethyl ether (3:1) as the eluent. There is obtained 3,3-dibromo-2-propenyl 2-chloro-4-fluoro-5-[2-methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]benzoate, 1H-NMR (CDCl3, 400 MHz): 7.89 ppm (d, 1H), 7.42 ppm (d, 1H), 6.72 ppm (t, 1H), 6.62 ppm (s. 1H), 4.82 ppm (d, 2H), 4.02 ppm (d, 3H).

reactant | 2-chloro-4-fluoro-5-[2methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoic acid | 1.5 g | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)OC | C13H7ClF4N2O4
reactant | 1,1,3-tribromo-1-propene | 1.37 g | BrC(=CCBr)Br | C3H3Br3
reactant | sodium carbonate | 0.52 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3,3-dibromo-2-propenyl 2-chloro-4-fluoro-5-[2-methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]benzoate | ClC1=C(C(=O)OCC=C(Br)Br)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)OC | C16H9Br2ClF4N2O4
